US07709482B2
Pyrrolidine (0.85 g, 12 mmol) and 2-nitro-5,6,8,9-tetrahydro-benzocyclohepten-7-one (2.05 g, 10 mmol) were mixed in 1,2-dichloroethane (35 mL) and then treated with NaBH(OAc)3 (3.18 g, 15 mmol) and AcOH (0.60 g, 10 mmol). The mixture was stirred at ambient temperature under a N2 atmosphere overnight. The reaction mixture was quenched with saturated NaHCO3, and the product was extracted with EtOAc (3×30 mL). The organic layers were combined and dried over NaSO4. The solvent was evaporated and the residue was purified by flash column chromatography eluting with CH2Cl2/DMA=1/1 (DMA=CH2Cl2/MeOH/30% NH3=80/19/1) to afford 1-(2-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulen-7-yl)pyrrolidine, a yellow oil (2.2 g, 85%); MS (m/e): 261 (M+H+).

reactant | Pyrrolidine | 12 mmol, 0.85 g | N1CCCC1 | C4H9N
reactant | 2-nitro-5,6,8,9-tetrahydro-benzocyclohepten-7-one | 10 mmol, 2.05 g | [N+](=O)([O-])C=1C=CC2=C(CCC(CC2)=O)C1 | C11H11NO3
reactant | NaBH(OAc)3 | 15 mmol, 3.18 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | AcOH | 10 mmol, 0.60 g | CC(=O)O | C2H4O2
solvent | 1,2-dichloroethane | 35 mL | ClCCCl | C2H4Cl2
product | 1-(2-nitro-6,7,8,9-tetrahydro-5H-benzo[7]annulen-7-yl)pyrrolidine | [N+](=O)([O-])C=1C=CC2=C(CCC(CC2)N2CCCC2)C1 | C15H20N2O2
